US06825351B2
To a stirred solution of 8-aminoquinoline (33.37 g, 0.231 mol), DMAP (4-dimethylaminopyridine) (1.40 g, 0.011 mol) and triethylamine (Et3N) (37 mL, 0.265 mol) in CH2Cl2 (methylene chloride) (275 mL) was added acetic anhydride (Ac2O) (26.5 mL, 0.281 mol). After 20 hours the reaction mixture was poured into a saturated aqueous solution of NaHCO3 (sodium bicarbonate). The phases were separated and the aqueous phase was extracted with ether (3×150 mL). The combined organic phases were dried (Na2SO4) (sodium sulfate), filtered and concentrated in vacuo to provide 43.56 g (100%) of N-(quinolin-8-yl)-acetamide as a beige solid. This material was used without further purification in subsequent steps. 1H NMR (CDCl3) δ 2.35 (s, 3H), 7.42-7.56 (m, 3H), 8.15 (dd, 1H, J=1.5, 8.4 Hz), 8.76 (dd, 1H, J=1.8, 7.2 Hz), 8.79 (dd, 1H, J=1.5, 4.2 Hz), 9.78 (br s, 1H); 13C NMR (CDCl3) δ 25.5, 116.8, 121.8, 122.0, 127.8, 128.3, 134.9, 136.8, 138.6, 148.5, 169.2. ES-MS m/z 187 (M+H).

reactant | 8-aminoquinoline | 0.231 mol, 33.37 g | NC=1C=CC=C2C=CC=NC12 | C9H8N2
reactant | triethylamine | 0.265 mol, 37 mL | C(C)N(CC)CC | C6H15N
reactant | acetic anhydride | 0.281 mol, 26.5 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
catalyst | DMAP | 0.011 mol, 1.40 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | CH2Cl2 | 275 mL | C(Cl)Cl | CH2Cl2
product | N-(quinolin-8-yl)-acetamide | 43.56 g, 100% | N1=CC=CC2=CC=CC(=C12)NC(C)=O | C11H10N2O
